US04943629
2,5-Anhydro-1-deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-glucitol
Following the procedure of Example 63, reduction of 1-deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-fructofuranosyl chloride with tributyltin hydride, followed by column chromatography of the crude product gave the desired compound, the more polar component, as an oil, CMR δ 77.9 (doublet of triplets, O-C-CF2P).

reactant | 1-deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-fructofuranosyl chloride | C(C)OP(=O)(C(C1([C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)Cl)(F)F)OCC | C31H36ClF2O7P
reactant | tributyltin hydride | C(CCC)[SnH](CCCC)CCCC
product | 2,5-Anhydro-1-deoxy-1-(diethoxyphosphinyl)-1,1-difluoro-3,4,6-tris-O-(phenylmethyl)-D-glucitol | C(C)OP(=O)(C([C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)(F)F)OCC | C31H37F2O7P
